US09164384B2
Synthesis of bis[4-[2-(2-methoxyethoxy)ethoxy]phenyl]sulfoxide (PAG Intermediate 32)
In 200 g of acetic acid was dissolved 26.6 g of bis[4-[2-(2-methoxyethoxy)ethoxy]phenyl]sulfide obtained in Synthesis Example 1-42. While the solution was maintained at an internal temperature of 30° C., 6.4 g of 35 wt % aqueous hydrogen peroxide was added dropwise. The reaction solution was aged at room temperature for 12 hours, after which under ice cooling, a mixture of 0.5 g sodium thiosulfate pentahydrate and 20 g water was added dropwise to quench the reaction. The solution was combined with 200 g of toluene and 100 g of water. The organic layer was separated, washed with water, and concentrated in vacuum, obtaining 26.1 g of the target compound, bis[4-[2-(2-methoxyethoxy)ethoxy]phenyl]sulfoxide as oily matter. Yield 95%.

reactant | bis[4-[2-(2-methoxyethoxy)ethoxy]phenyl]sulfide | 26.6 g | COCCOCCOC1=CC=C(C=C1)SC1=CC=C(C=C1)OCCOCCOC | C22H30O6S
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 20 g | O | H2O
reactant | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
reactant | water | 100 g | O | H2O
solvent | acetic acid | 200 g | C(C)(=O)O | C2H4O2
catalyst | sodium thiosulfate pentahydrate | 0.5 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | bis[4-[2-(2-methoxyethoxy)ethoxy]phenyl]sulfoxide | 26.1 g, Yield 95% | COCCOCCOC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)OCCOCCOC | C22H30O7S
